US03973030
The solution of 10.0 g of N-methyl-3,4,5-trimethoxyphenylpropiolamide in 80 ml of dimethylformamide is added dropwise to the suspension of 1.05 g of sodium hydride in 10 ml of dimethylformamide while stirring and cooling with ice. The mixture is stirred for 1 hour at room temperature whereupon the solution of 8.0 g of cinnamyl bromide in 40 ml of dimethylformamide is added dropwise and stirring is continued for 15 hours at room temperature. The mixture is poured into the solution of 20 ml of 3N hydrochloric acid in 600 ml of water and the whole is extracted with 250 ml of toluene. The extract is washed with 2N aqueous sodium hydroxide and saturated aqueous sodium chloride, dried and filtered, to yield the desired toluene-solution of the N-cinnamyl-N-methyl-3,4,5-trimethoxyphenylpropiolamide.

reactant | N-methyl-3,4,5-trimethoxyphenylpropiolamide | 10.0 g | CNC(C#CC1=CC(=C(C(=C1)OC)OC)OC)=O | C13H15NO4
reactant | sodium hydride | 1.05 g | [H-].[Na+]
reactant | cinnamyl bromide | 8.0 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | hydrochloric acid | 3N, 20 ml | Cl | ClH
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | N-cinnamyl-N-methyl-3,4,5-trimethoxyphenylpropiolamide | C(C=CC1=CC=CC=C1)N(C(C#CC1=CC(=C(C(=C1)OC)OC)OC)=O)C | C22H23NO4
